US07115645B2
a) 3-(3,4,5-Trimethoxyphenyl)amino-4-nitrophenol
3.7 g of 3-fluoro-4-nitrophenol and 4.76 g of 3,4,5-trimethoxyaniline were mixed and stirred for 10 hours at 100° C. After cooling, it was taken up in ethyl acetate and water and extracted three times with ethyl acetate. The combined organic phases were extracted three times with 1N aqueous hydrochloric acid and once with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation to a very large extent in a vacuum. The product was digested with diisopropyl ether.

reactant | 3-fluoro-4-nitrophenol | 3.7 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | 3,4,5-trimethoxyaniline | 4.76 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,4,5-Trimethoxyphenyl)amino-4-nitrophenol | COC=1C=C(C=C(C1OC)OC)NC=1C=C(C=CC1[N+](=O)[O-])O | C15H16N2O6
